US03935214
1-(3',4'-Dichloro benzyl)-2-phenyl-4-morpholino ethyl piperazine
1-(3',4'-Dichloro benzyl)-2-phenyl piperazine prepared according to Example 3b, is alkylated by following the procedure described in Example 3c whereby, in place of diethylamino ethylchloride, the equimolecular amount of morpholino ethylchloride is used. The resulting reaction product is obtained in the form of a light yellow oil boiling at 230° C./0.04 mm. Hg.

reactant | 1-(3',4'-Dichloro benzyl)-2-phenyl piperazine | ClC=1C=C(CN2C(CNCC2)C2=CC=CC=C2)C=CC1Cl | C17H18Cl2N2
reactant | diethylamino ethylchloride | C(C)N(CC)CCCl | C6H14ClN
reactant | morpholino ethylchloride | O1CCN(CC1)CCCl | C6H12ClNO
product | 1-(3',4'-Dichloro benzyl)-2-phenyl-4-morpholino ethyl piperazine | ClC=1C=C(CN2C(CN(CC2)CCN2CCOCC2)C2=CC=CC=C2)C=CC1Cl | C23H29Cl2N3O
